US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.5 g, 3.80 mmol), 5-(tert-butyldimethylsilanyloxymethyl)pyridine-3-boronic acid (1.22 g, 4.57 mmol), potassium carbonate (1.74 g, 12.6 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.027 g, 0.038 mmol), DME (13 mL), and water (7 mL) was stirred under a nitrogen atmosphere and then heated at 110° C. in a pressure vessel for 6 hours and allowed to cool to room temperature. An analysis by LC/MS indicated the reaction was incomplete, and additional dichlorobis(triphenylphosphine)palladium(II)(0.035 g) was added. The reaction was heated at 110 C for 16 hours and allowed to cool to room temperature. The DME was removed under reduced pressure, and the resulting mixture was extracted with dichloromethane (3×25 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting brown solid was dissolved in dichloromethane (15 mL) purified by chromatography according to the method described in Example 62 to provide 1.37 g of 1-{4-amino-7-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-3-yl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as a yellow solid.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.80 mmol, 1.5 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | 5-(tert-butyldimethylsilanyloxymethyl)pyridine-3-boronic acid | 4.57 mmol, 1.22 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)B(O)O | C12H22BNO3Si
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 13 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.038 mmol, 0.027 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-{4-amino-7-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-3-yl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 1.37 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C=2C=NC=C(C2)CO[Si](C)(C)C(C)(C)C | C28H40N6O3Si
